* C:\Users\berny\Documents\TEC\VIII Semestre\CIRCUITOS DISCRETOS\Tarea_Circuitos_DiscretoS.asc
M2 N002 N001 vdda vdda PMOS l=0.5 w=10
M1 N001 N001 vdda vdda PMOS l=0,5 w=10
M7 out N002 vdda vdda PMOS l=0.5 w=100u
M3 N001 inn N003 vssa NMOS l=0.5 w=5
M4 N002 inp N003 vssa NMOS l=0.5 w=5
M5 N004 N004 vssa vssa NMOS l=0.5 w=5
M6 N003 N004 vssa vssa NMOS l=0.5 w=5
M8 out N004 vssa vssa NMOS l=0.5 w=W8
I1 vdda N004 I
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\berny\AppData\Local\LTspice\lib\cmp\standard.mos
* BSIM3 models for AMI Semiconductor's C5 process
*
* Don't forget the .options scale=300nm if using drawn lengths
* and the MOSIS SUBM design rules
*
* 2<Ldrawn<500   10<Wdrawn<10000 Vdd=5V
* Note minimum L is 0.6 um while minimum W is 3 um
* Change to level=49 when using HSPICE or SmartSpice
.MODEL NMOS NMOS (                                 LEVEL   = 8
+VERSION = 3.1            TNOM    = 27             TOX     = 1.39E-8
+XJ      = 1.5E-7         NCH     = 1.7E17         VTH0    = 0.6696061
+K1      = 0.8351612      K2      = -0.0839158     K3      = 23.1023856
+K3B     = -7.6841108     W0      = 1E-8           NLX     = 1E-9
+DVT0W   = 0              DVT1W   = 0              DVT2W   = 0
+DVT0    = 2.9047241      DVT1    = 0.4302695      DVT2    = -0.134857
+U0      = 458.439679     UA      = 1E-13          UB      = 1.485499E-18
+UC      = 1.629939E-11   VSAT    = 1.643993E5     A0      = 0.6103537
+AGS     = 0.1194608      B0      = 2.674756E-6    B1      = 5E-6
+KETA    = -2.640681E-3   A1      = 8.219585E-5    A2      = 0.3564792
+RDSW    = 1.387108E3     PRWG    = 0.0299916      PRWB    = 0.0363981
+WR      = 1              WINT    = 2.472348E-7    LINT    = 3.597605E-8
+XL      = 0              XW      = 0              DWG     = -1.287163E-8
+DWB     = 5.306586E-8    VOFF    = 0              NFACTOR = 0.8365585
+CIT     = 0              CDSC    = 2.4E-4         CDSCD   = 0
+CDSCB   = 0              ETA0    = 0.0246738      ETAB    = -1.406123E-3
+DSUB    = 0.2543458      PCLM    = 2.5945188      PDIBLC1 = -0.4282336
+PDIBLC2 = 2.311743E-3    PDIBLCB = -0.0272914     DROUT   = 0.7283566
+PSCBE1  = 5.598623E8     PSCBE2  = 5.461645E-5    PVAG    = 0
+DELTA   = 0.01           RSH     = 81.8           MOBMOD  = 1
+PRT     = 8.621          UTE     = -1             KT1     = -0.2501
+KT1L    = -2.58E-9       KT2     = 0              UA1     = 5.4E-10
+UB1     = -4.8E-19       UC1     = -7.5E-11       AT      = 1E5
+WL      = 0              WLN     = 1              WW      = 0
+WWN     = 1              WWL     = 0              LL      = 0
+LLN     = 1              LW      = 0              LWN     = 1
+LWL     = 0              CAPMOD  = 2              XPART   = 0.5
+CGDO    = 2E-10          CGSO    = 2E-10          CGBO    = 1E-9
+CJ      = 4.197772E-4    PB      = 0.99           MJ      = 0.4515044
+CJSW    = 3.242724E-10   PBSW    = 0.1            MJSW    = 0.1153991
+CJSWG   = 1.64E-10       PBSWG   = 0.1            MJSWG   = 0.1153991
+CF      = 0              PVTH0   = 0.0585501      PRDSW   = 133.285505
+PK2     = -0.0299638     WKETA   = -0.0248758     LKETA   = 1.173187E-3
+AF      = 1              KF      = 0)
*
.MODEL PMOS PMOS (                                 LEVEL   = 8
+VERSION = 3.1            TNOM    = 27             TOX     = 1.39E-8
+XJ      = 1.5E-7         NCH     = 1.7E17         VTH0    = -0.9214347
+K1      = 0.5553722      K2      = 8.763328E-3    K3      = 6.3063558
+K3B     = -0.6487362     W0      = 1.280703E-8    NLX     = 2.593997E-8
+DVT0W   = 0              DVT1W   = 0              DVT2W   = 0
+DVT0    = 2.5131165      DVT1    = 0.5480536      DVT2    = -0.1186489
+U0      = 212.0166131    UA      = 2.807115E-9    UB      = 1E-21
+UC      = -5.82128E-11   VSAT    = 1.713601E5     A0      = 0.8430019
+AGS     = 0.1328608      B0      = 7.117912E-7    B1      = 5E-6
+KETA    = -3.674859E-3   A1      = 4.77502E-5     A2      = 0.3
+RDSW    = 2.837206E3     PRWG    = -0.0363908     PRWB    = -1.016722E-5
+WR      = 1              WINT    = 2.838038E-7    LINT    = 5.528807E-8
+XL      = 0              XW      = 0              DWG     = -1.606385E-8
+DWB     = 2.266386E-8    VOFF    = -0.0558512     NFACTOR = 0.9342488
+CIT     = 0              CDSC    = 2.4E-4         CDSCD   = 0
+CDSCB   = 0              ETA0    = 0.3251882      ETAB    = -0.0580325
+DSUB    = 1              PCLM    = 2.2409567      PDIBLC1 = 0.0411445
+PDIBLC2 = 3.355575E-3    PDIBLCB = -0.0551797     DROUT   = 0.2036901
+PSCBE1  = 6.44809E9      PSCBE2  = 6.300848E-10   PVAG    = 0
+DELTA   = 0.01           RSH     = 101.6          MOBMOD  = 1
+PRT     = 59.494         UTE     = -1             KT1     = -0.2942
+KT1L    = 1.68E-9        KT2     = 0              UA1     = 4.5E-9
+UB1     = -6.3E-18       UC1     = -1E-10         AT      = 1E3
+WL      = 0              WLN     = 1              WW      = 0
+WWN     = 1              WWL     = 0              LL      = 0
+LLN     = 1              LW      = 0              LWN     = 1
+LWL     = 0              CAPMOD  = 2              XPART   = 0.5
+CGDO    = 2.9E-10        CGSO    = 2.9E-10        CGBO    = 1E-9
+CJ      = 7.235528E-4    PB      = 0.9527355      MJ      = 0.4955293
+CJSW    = 2.692786E-10   PBSW    = 0.99           MJSW    = 0.2958392
+CJSWG   = 6.4E-11        PBSWG   = 0.99           MJSWG   = 0.2958392
+CF      = 0              PVTH0   = 5.98016E-3     PRDSW   = 14.8598424
+PK2     = 3.73981E-3     WKETA   = 5.292165E-3    LKETA   = -4.205905E-3
+AF      = 1              KF      = 0)
.tran 1
.step param W8 1u 20u 100p
.backanno
.end
